US04221919
3-chloro-4-(4'-isopropylbenzyloxy) phenylacetic acid was prepared in accordance with the procedure designated (f) above by reacting 4-isopropylbenzyl chloride with methyl 3-chloro-4-hydroxyphenylacetate. The resultant product evidenced a melting point of 146.5°-148° C. in a methanol-water 2:1 mixture.

reactant | 4-isopropylbenzyl chloride | C(C)(C)C1=CC=C(CCl)C=C1 | C10H13Cl
reactant | methyl 3-chloro-4-hydroxyphenylacetate | ClC=1C=C(C=CC1O)CC(=O)OC | C9H9ClO3
solvent | methanol water | CO.O
product | 3-chloro-4-(4'-isopropylbenzyloxy) phenylacetic acid | ClC=1C=C(C=CC1OCC1=CC=C(C=C1)C(C)C)CC(=O)O | C18H19ClO3
